US07884210B2
A mixture of N,N-diethyl-2-methylamino-acetamide (12 mmol), 2-acetylamino-thiazole-5-sulfonyl chloride (12 mmol) (prepared as described in J. Am. Chem. Soc 69, 2063, 1947), DIPEA (15 mmol) in DCM (50 mL) was stirred at room temperature over night. The reaction mixture was diluted with DCM (50 mL) washed with 10% aq NaHSO4, water and brine, dried and concentrated to give 2-[(2-acetylamino-thiazole-5-sulfonyl)-methyl-amino]-N,N-diethyl-acetamide (59%) as pale yellow crystals. This was suspended in EtOH (10 mL) and added 8N HCl in dioxane (10 mL) and heated for 3H at 80° C. and then cooled to room temperature and concentrated in vacuo to give 2-[(2-amino-thiazole-5-sulfonyl)-methyl-amino]-N,N-diethyl-acetamide as a hydrochloride as colourless crystals.

reactant | N,N-diethyl-2-methylamino-acetamide | 12 mmol | C(C)N(C(CNC)=O)CC | C7H16N2O
reactant | 2-acetylamino-thiazole-5-sulfonyl chloride | 12 mmol | C(C)(=O)NC=1SC(=CN1)S(=O)(=O)Cl | C5H5ClN2O3S2
reactant | DIPEA | 15 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[(2-acetylamino-thiazole-5-sulfonyl)-methyl-amino]-N,N-diethyl-acetamide | 59% | C(C)(=O)NC=1SC(=CN1)S(=O)(=O)N(CC(=O)N(CC)CC)C | C12H20N4O4S2
